US04770976
Preparation of 1-acetoxy-2-(2-chlorophenyl)-phenanthroimidazole
4 parts of 1-hydroxy-2-(2-chlorophenyl)-phenanthroimidazole in 30 parts of tetrahydrofuran are initially taken, and 2 parts of pyridine and 3.6 parts of acetic anhydride are then added. Tne mixture is stirred for five hours at room temperature, after which 40 parts of ethyl acetate are added to the resulting solution. The organic phase thus obtained is washed several times with water and dried over sodium sulfate, after which the solvent is stripped off. The solid which remains is recrystallized from methyl ethyl ketone/cyclohexane.

reactant | 1-hydroxy-2-(2-chlorophenyl)-phenanthroimidazole | ON1C(=NC2=C1C=CC=1C=3C=CC=CC3C=CC12)C1=C(C=CC=C1)Cl | C21H13ClN2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-acetoxy-2-(2-chlorophenyl)-phenanthroimidazole | C(C)(=O)ON1C(=NC2=C1C=CC=1C=3C=CC=CC3C=CC12)C1=C(C=CC=C1)Cl | C23H15ClN2O2
